************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: SDFFSRHQX8
* View Name:     schematic
* Netlisted on:  Jun  4 07:49:59 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VSS:G
+        VDD:P
+        ExtVDD:P
+        ExtVSS:G

*.PIN VSS
*+    VDD
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    SDFFSRHQX8
* View Name:    schematic
************************************************************************

.SUBCKT SDFFSRHQX8 CK D Q RN SE SI SN VDD VSS
*.PININFO CK:I D:I RN:I SE:I SI:I SN:I VDD:I VSS:I Q:O
Mmn13 net534 SI VSS VSS g45n1svt m=1 l=45n w=260n
Mmn14 Db SE net534 VSS g45n1svt m=1 l=45n w=260n
Mmn12 Db SEb net522 VSS g45n1svt m=1 l=45n w=260n
Mmn11 net522 D VSS VSS g45n1svt m=1 l=45n w=260n
Mmn55 Q qbint VSS VSS g45n1svt m=1 l=45n w=2.065u
Mmn35 net514 mout VSS VSS g45n1svt m=1 l=45n w=205n
Mmn36 n20 CKbb net514 VSS g45n1svt m=1 l=45n w=205n
Mmn22 RNb RN VSS VSS g45n1svt m=1 l=45n w=145n
Mmn20 CKb CK VSS VSS g45n1svt m=1 l=45n w=145n
Mmn45 qbint n35 VSS VSS g45n1svt m=1 l=45n w=780n
Mmn52 net490 qbint net486 VSS g45n1svt m=1 l=45n w=205n
Mmn51 net490 RNb net486 VSS g45n1svt m=1 l=45n w=205n
Mmn50 net486 SN VSS VSS g45n1svt m=1 l=45n w=205n
Mmn53 n35 CKb net490 VSS g45n1svt m=1 l=45n w=205n
Mmn10 SEb SE VSS VSS g45n1svt m=1 l=45n w=145n
Mmn25 Db CKb n20 VSS g45n1svt m=1 l=45n w=205n
Mmn30 net469 SN VSS VSS g45n1svt m=1 l=45n w=205n
Mmn32 mout n20 net469 VSS g45n1svt m=1 l=45n w=205n
Mmn31 mout RNb net469 VSS g45n1svt m=1 l=45n w=205n
Mmn40 n35 CKbb mout VSS g45n1svt m=1 l=45n w=205n
Mmn21 CKbb CKb VSS VSS g45n1svt m=1 l=45n w=145n
Mmp14 Db SEb net453 VDD g45p1svt m=1 l=45n w=390n
Mmp13 net453 SI VDD VDD g45p1svt m=1 l=45n w=390n
Mmp12 Db SE net445 VDD g45p1svt m=1 l=45n w=390n
Mmp11 net445 D VDD VDD g45p1svt m=1 l=45n w=390n
Mmp52 net394 qbint net437 VDD g45p1svt m=1 l=45n w=310n
Mmp51 net437 RNb VDD VDD g45p1svt m=1 l=45n w=310n
Mmp55 Q qbint VDD VDD g45p1svt m=1 l=45n w=3.115u
Mmp36 n20 CKb net425 VDD g45p1svt m=1 l=45n w=310n
Mmp35 net425 mout VDD VDD g45p1svt m=1 l=45n w=310n
Mmp32 mout n20 net417 VDD g45p1svt m=1 l=45n w=310n
Mmp31 net417 RNb VDD VDD g45p1svt m=1 l=45n w=310n
Mmp22 RNb RN VDD VDD g45p1svt m=1 l=45n w=215n
Mmp20 CKb CK VDD VDD g45p1svt m=1 l=45n w=215n
Mmp53 n35 CKbb net394 VDD g45p1svt m=1 l=45n w=310n
Mmp50 net394 SN VDD VDD g45p1svt m=1 l=45n w=310n
Mmp45 qbint n35 VDD VDD g45p1svt m=1 l=45n w=1.17u
Mmp25 n20 CKbb Db VDD g45p1svt m=1 l=45n w=310n
Mmp30 mout SN VDD VDD g45p1svt m=1 l=45n w=310n
Mmp40 n35 CKb mout VDD g45p1svt m=1 l=45n w=310n
Mmp21 CKbb CKb VDD VDD g45p1svt m=1 l=45n w=215n
Mmp10 SEb SE VDD VDD g45p1svt m=1 l=45n w=215n
.ENDS

